US04677129
(c) 4-aza-4-cyclohexyl-2-(4-nitrophenyl)-1,6-heptadiene-3,5-dione
The title compound is prepared analogously to Example 1c starting from 40.5 g of α-(4-nitrophenyl)-acrylic acid, 26.7 g of oxalyl chloride and 26.8 g of N-cyclohexylacrylamide. Melting point 73°-74° (from hexane).

reactant | α-(4-nitrophenyl)-acrylic acid | 40.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)=C | C9H7NO4
reactant | oxalyl chloride | 26.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-cyclohexylacrylamide | 26.8 g | C1(CCCCC1)NC(C=C)=O | C9H15NO
reactant | hexane | CCCCCC | C6H14
product | 4-aza-4-cyclohexyl-2-(4-nitrophenyl)-1,6-heptadiene-3,5-dione | C1(CCNCC1)C(C(C(=C)C1=CC=C(C=C1)[N+](=O)[O-])=O)C(C=C)=O | C18H20N2O4
